US09314464B2
Intermediate. Tert-butyl 3-bromo-5-chloro-2-fluorophenylcarbamate
A solution of crude Intermediate 3-bromo-5-chloro-2-fluorobenzoic acid (2.03 g, 8 mmol), diphenylphosphoryl azide (2.07 mL, 9.6 mmol, 1.2 eq), and DIPEA (1.67 mL, 9.6 mmol, 1.2 eq) in 1:1 t-butanol/toluene (25 ml) was heated at 110° C. for 36 h. The mixture was concentrated, then partitioned between ethyl acetate and water. The organic layer was washed with brine, and was then dried over sodium sulfate, filtered, and concentrated. The crude product was purified by silica gel chromatography (30:1 to 10:1 hexanes/ethyl acetate eluant) to provide the title compound. MS m/z: 267.8 (M+H)+. (M−tBu).

reactant | 3-bromo-5-chloro-2-fluorobenzoic acid | 8 mmol, 2.03 g | BrC=1C(=C(C(=O)O)C=C(C1)Cl)F | C7H3BrClFO2
reactant | diphenylphosphoryl azide | 9.6 mmol, 2.07 mL, 1.2 eq | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | DIPEA | 9.6 mmol, 1.67 mL, 1.2 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | t-butanol toluene | 25 ml | C(C)(C)(C)O.C1(=CC=CC=C1)C
product | Tert-butyl 3-bromo-5-chloro-2-fluorophenylcarbamate | BrC=1C(=C(C=C(C1)Cl)NC(OC(C)(C)C)=O)F | C11H12BrClFNO2
